US06462038B1
This compound was prepared by General Method 3 (EXAMPLE 1) from (±)-3,4-dihydro-3-methyl-7-nitro-2H-1,4-benzoxazine (200 mg, 1.0 mmol), acetaldehyde (455 mg, 10.3 mmol) and NaBH3CN (314 mg, 5.0 mmol) to afford 144 mg (63%) of 4-ethyl-3,4-dihydro-3-methyl-7-nitro-2H-1,4-benzoxazine. Data for (±)-4-ethyl-3,4-dihydro-3-methyl-7-nitro-2H-1,4-benzoxazine: Rf 0.80 (3:2 EtOAc:hexanes); 1H NMR (500 MHz, CDCl3) δ 7.80 (dd, 1H, J=8.9, 2.6), 7.66 (d, 1H, J=2.6), 6.55 (d, 1H, J=9.2), 4.07 (dd, 1H, J=10.7,2.5), 3.96 (dd, 1H, J=10.7, 2.6), 3.60 (m, 1H), 3.55-3.35 (m, 2H), 1.29 (d, 3H, J=6.6), 1.24 (t, 3H, J=7.0).

reactant | (±)-3,4-dihydro-3-methyl-7-nitro-2H-1,4-benzoxazine | 1.0 mmol, 200 mg | CC1COC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C9H10N2O3
reactant | acetaldehyde | 10.3 mmol, 455 mg | C(C)=O | C2H4O
reactant | NaBH3CN | 5.0 mmol, 314 mg | [BH3-]C#N.[Na+]
product | 4-ethyl-3,4-dihydro-3-methyl-7-nitro-2H-1,4-benzoxazine | 144 mg, 63% | C(C)N1C(COC2=C1C=CC(=C2)[N+](=O)[O-])C | C11H14N2O3
